US04963575
To a solution of 5-bromo-3-cyano-1-(2,6-dichloro -4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole (2.0 g) in dioxan (30 ml) was added 1,2, 4-triazole (0.74 g), and the mixture heated under reflux overnight. After cooling to ambient temperature, sodium hydride (0.125 g) was added and the mixture heated under reflux for 2 days. The solvent was evaporated in vacuo and the residue dissolved in dichloromethane (50 ml) and washed with water (50 ml). The aqueous layer was re-extracted with dichloromethane (50 ml) and the combined organics dried over anhydrous magnesium sulphate, then evaporated in vacuo to give a yellow oil. Purification by chromatography on silica, eluting with dichloromethane/hexane (1:1) gave 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)- 5-(1,2,4-triazol-1-yl)-4-trifluoromethylsulphonylpyrazole (0.3 g) as a white solid, m.p. 172.3°-173.7° C.

reactant | 5-bromo-3-cyano-1-(2,6-dichloro -4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole | 2.0 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H2BrCl2F6N3O2S
reactant | 1,2, 4-triazole | 0.74 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.125 g | [H-].[Na+]
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)- 5-(1,2,4-triazol-1-yl)-4-trifluoromethylsulphonylpyrazole | 0.3 g | C(#N)C1=NN(C(=C1S(=O)(=O)C(F)(F)F)N1N=CN=C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H4Cl2F6N6O2S
